US05929072
A solution of 5-fluoro-3-(1-methylethyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2-dioxide (0.22 g, 0.9 mmol) in dry DMF (15 ml) was added via cannula to a flask containing NaH (25 mg, 0.99 mmol) and DMF (7 ml) in argon atmosphere, and stirred for 2 hours at room temperature. 1-Bromo-2-chloroethane (0.19 ml, 2.25 mmol,) was then added dropwise and the mixture stirred at room temperature for 4 days. Then, the mixture was extracted with EtOAc (3×50 ml). The combined organic extracts were washed with water (1×100 ml) and then brine (1×100 ml), dried over Na2SO4 and solvent evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (EtOAc:Hexane 1:4) affording pure 1-(2-chloroethyl)-5-fluoro-3-(1-methylethyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2-dioxide.

reactant | 5-fluoro-3-(1-methylethyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2-dioxide | 0.9 mmol, 0.22 g | FC1=CC=CC2=C1CN(S(N2)(=O)=O)C(C)C | C10H13FN2O2S
reactant | NaH | 0.99 mmol, 25 mg | [H-].[Na+]
reactant | 1-Bromo-2-chloroethane | 2.25 mmol, 0.19 ml | BrCCCl | C2H4BrCl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloroethyl)-5-fluoro-3-(1-methylethyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2-dioxide | ClCCN1S(N(CC2=C1C=CC=C2F)C(C)C)(=O)=O | C12H16ClFN2O2S
